US06919475B2
First Phase N-triphenylmethyl-L-tyrosine tert-butyl ester
L-Tyrosine tert-butyl ester* was reacted at room temperature in DMF, in the presence of triethylamine, with an equimolar amount of triphenylmethylchloride. Through mixing of the DMF phase with the 4-fold amount of ice the raw product is precipitated and recrystallized from ethanol.

reactant | L-Tyrosine tert-butyl ester | C(C)(C)(C)OC([C@@H](N)CC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | triphenylmethylchloride | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | CN(C)C=O | C3H7NO
product | N-triphenylmethyl-L-tyrosine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C32H33NO3
